US07678801B2
3-[8-(2,6-difluorophenyl)-2-({3-[(1-methylethyl)amino]propyl}amino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide
The title compound was prepared from 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide and N-(1-methylethyl)-1,3-propanediamine by following the procedures in Example 79c. LC-MS m/z 590 (M+H)+; 1H-NMR (MeOD) 1.02 (m, 6 H), 1.68 (m, 2 H), 2.32 (m, 3 H), 2.46 (m, 1 H), 2.66 (m, 1 H), 2.82 (m, 1H), 3.11 (m, 1 H), 3.46 (m, 1 H), 6.35 (d, J=8.8 Hz, 1 H), 7.11 (m, 1 H), 7.24 (m, 2H), 7.46 (m, 2 H), 7.55 (m, 2 H), 8.02 (m, 1 H), 8.11 (d, J=7.6 Hz, 1 H).

reactant | 3-[8-(2,6-difluorophenyl)-2-(methylsulfinyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)S(=O)C)=O | C25H17F2N5O3S2
reactant | N-(1-methylethyl)-1,3-propanediamine | CC(C)NCCCN | C6H16N2
product | 3-[8-(2,6-difluorophenyl)-2-({3-[(1-methylethyl)amino]propyl}amino)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]-4-methyl-N-1,3-thiazol-2-ylbenzamide | FC1=C(C(=CC=C1)F)N1C(C=CC2=C1N=C(N=C2C=2C=C(C(=O)NC=1SC=CN1)C=CC2C)NCCCNC(C)C)=O | C30H29F2N7O2S
